US07951951B2
16.20 g (100 mmol) of 2-chloro-5-(chloromethyl)pyridine, 16.90 g (130 mmol) of 3-chloropropan-1-amine hydrochloride and 36.24 ml (260 mmol) of triethylamine in 200 ml acetonitrile stirred at 60° C. for 20 hours. After addition of 30.67 g (230 mmol) of 30 percent strength aqueous sodium hydroxide solution, the reaction mixture is concentrated under reduced pressure and the residue is extracted with chloroform. Concentration of the extract under reduced pressure gives 19.03 g (87% of theory) of 3-chloro-N-[(6-chloropyridin-3-yl)methyl]propan-1-amine which can be used without further purification for the next reaction (cf. Ex. II-2).

reactant | 2-chloro-5-(chloromethyl)pyridine | 100 mmol, 16.20 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 3-chloropropan-1-amine hydrochloride | 130 mmol, 16.90 g | Cl.ClCCCN
reactant | triethylamine | 260 mmol, 36.24 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-chloro-N-[(6-chloropyridin-3-yl)methyl]propan-1-amine | 19.03 g, 87% | ClCCCNCC=1C=NC(=CC1)Cl | C9H12Cl2N2
